US04703046
A mixture of ethyl 2-methoxyimino-2-propionylacetate (14.7 g.), sulfuryl chloride (10.9 g.) and acetic acid (14.7 ml.) was stirred at room temperature for an hour and then at 40° C. for 2.5 hrs. Ice-water was added to the reaction mixture, adjusted to pH 6.5 and extracted with methylene chloride. The extract was washed with an aqueous solution of sodium chloride, dried over magnesium sulfate and then filtered. The filtrate was evaporated in vacuo to give ethyl 2-methoxyimino-2-(2-chloropropionyl)acetate (16.0 g.).

reactant | ethyl 2-methoxyimino-2-propionylacetate | 14.7 g | CON=C(C(=O)OCC)C(CC)=O | C8H13NO4
reactant | sulfuryl chloride | 10.9 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 14.7 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-methoxyimino-2-(2-chloropropionyl)acetate | 16.0 g | CON=C(C(=O)OCC)C(C(C)Cl)=O | C8H12ClNO4
